US04639518
Ethyl 2,3-methylenedioxy-6-nitrobenzoate
Following the procedure employed in Example 15, condensation of 2,3-methylenedioxy 6-nitrobenzoic acid (10 g) with 40 ml of triethyl orthoformate gives the title compound in 67% yield after ethanol crystallization.

reactant | 2,3-methylenedioxy 6-nitrobenzoic acid | 10 g | C1OC2=C(C(=O)O)C(=CC=C2O1)[N+](=O)[O-] | C8H5NO6
reactant | triethyl orthoformate | 40 ml | C(OCC)(OCC)OCC | C7H16O3
product | Ethyl 2,3-methylenedioxy-6-nitrobenzoate | 67% yield | C1OC2=C(C(=O)OCC)C(=CC=C2O1)[N+](=O)[O-] | C10H9NO6
